US05153203
7-(1-t-Butoxycarbonyl-3-pyridinyloxy)-1-cyclopropyl-5-amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (Compound No. 42)
To a mixture of 1.20 g of 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 1.50 g of 1-t-butoxycarbonyl-3-hydroxypyrrolidine and 1,5 ml of DMF was added 483 mg of 55% sodium hydride while the former was stirred under ice cooling. The resultant mixture was stirred for further 20 hours at room temperature. The reaction mixture was diluted with chloroform and then successively washed with 10% aq. citric acid solution and saturated saline. The organic layer was dried over anhydrous sodium sulfate and then concentrated. The residue thus obtained was recrystallized from ethanol, whereby 1.48 g of the title compound was obtained as pale green powder.

reactant | 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.20 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)N)=O)C(=O)O | C13H9F3N2O3
reactant | 1-t-butoxycarbonyl-3-hydroxypyrrolidine | 1.50 g | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
reactant | DMF | 1,5 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 483 mg | [H-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-(1-t-Butoxycarbonyl-3-pyridinyloxy)-1-cyclopropyl-5-amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.48 g | C(C)(C)(C)OC(=O)N1CC(=CC=C1)OC1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)N)F | C23H23F2N3O6
